US06384234B1
Preparation of N-(2-Chloro-4-fluoro-5-nitrophenyl)-N-[(chloromethyl)sulfonyl]acetamide
30 g (0.1 mol) of N-(2-chloro-4-fluorophenyl)-N-[(chloromethyl)sulfonyl]acetamide was dissolved in a mixture of 150 mL of concentrated sulfuric acid and 50 mL of 30% oleum with stirring. The mixture was cooled to 0-5° C. and 9.2 mL of the nitrating agent, made from equal volumes of concentrated sulfuric acid and fuming nitric acid, was added slowly keeping the temperature below 5° C. Another 50 mL of oleum and 30 g of the starting material were then added, followed by the further dropwise addition of 9.2 mL of the nitrating agent, allowing the mixture to warm up to 10° C. The mixture was stirred for an additional 40 minutes at 10-15° C. and poured with vigorous stirring onto ice. The precipitated yellow solid was filtered off, washed with water and dried to yield 63.5 g (92%) of the title compound as a solid, which was recrystallized from ethyl acetate, melting at 183-187° C.

reactant | N-(2-chloro-4-fluorophenyl)-N-[(chloromethyl)sulfonyl]acetamide | 0.1 mol, 30 g | ClC1=C(C=CC(=C1)F)N(C(C)=O)S(=O)(=O)CCl | C9H8Cl2FNO3S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
solvent | oleum | 50 mL | OS(=O)(=O)O.O=S(=O)=O
solvent | oleum | 50 mL | OS(=O)(=O)O.O=S(=O)=O
product | N-(2-Chloro-4-fluoro-5-nitrophenyl)-N-[(chloromethyl)sulfonyl]acetamide | 63.5 g, 92% | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N(C(C)=O)S(=O)(=O)CCl | C9H7Cl2FN2O5S
